US07691879B2
1-[(3R)-3-hydroxypyrrolidin-1-yl]-6-methoxy-4-phenylisoquinoline-3-carbonitrile
Following the procedure for 1-(allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using (R)-3-pyrrolidinol in place of allylamine, the title compound was synthesized.

reactant | 1-(allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)NC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H17N3O
reactant | (R)-3-pyrrolidinol | N1C[C@@H](CC1)O | C4H9NO
product | 1-[(3R)-3-hydroxypyrrolidin-1-yl]-6-methoxy-4-phenylisoquinoline-3-carbonitrile | O[C@H]1CN(CC1)C1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C21H19N3O2
